US04263299
(b) 7-Bromomethyl-4-ethoxycoumarin
N-Bromosuccinimide (9.59 g; 0.054 mole) was added to stirred solution of 4-ethoxy-7-methylcoumarin (11 g; 0.054 mole) in carbontetrachloride (600 ml) followed by a catalytic quantity of azo bisbutyronitrile. After refluxing the mixture for 1 hr the solvent was removed in vacuo and the residue recrystallized from ethanol to give 11.73 g (77%) of product of m.p. 150°-3° C. Further recrystallization gave material of m.p. 152°-155° C.

reactant | N-Bromosuccinimide | 0.054 mole, 9.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-ethoxy-7-methylcoumarin | 0.054 mole, 11 g | C(C)OC1=CC(OC2=CC(=CC=C12)C)=O | C12H12O3
reactant | azo bisbutyronitrile | N(=NCCCC#N)CCCC#N | C8H12N4
solvent | carbontetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-4-ethoxycoumarin | 11.73 g, 77% | BrCC1=CC=C2C(=CC(OC2=C1)=O)OCC | C12H11BrO3
